US04656309
Ethyl pivaloylacetate was prepared from diethyl malonate in the following manner. Diethyl malonate (64 g, 0.4 mol) was dissolved in 350 ml of a mixture of xylene isomers. A solution of sodium ethoxide, prepared by dissolving sodium (9.66 g, 0.42 g at) in absolute ethanol (150 ml), was then added with stirring at ambient temperature. Ethanol was removed by distillation. After the mixture was cooled to 50° C., pivaloylchloride (53 g, 0.4 mol) was added with stirring over a period of one hour and the resulting slurry stirred for a further hour. The mixture obtained was then filtered to remove sodium chloride and the filtrate added to dry sodium ethoxide, which had been prepared by dissolving sodium (9.29 g; 0.4 g at) in 250 ml of absolute ethanol and evaporating to dryness. After stirring for 90 minutes at 50° C., the mixture was acidified with dilute hydrochloric acid and the organic phase separated and dried over anhydrous magnesium sulphate. Evaporation of the solvent in a rotary evaporator followed by vacuum distillation afforded essentially pure ethyl pivaloylacetate product as a colorless liquid (b.p. 167° C. at 65 mbar). Structure of the product was confirmed with NMR analysis. The product yield, determined by GLC, was 0.343 mol (86%).

reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | Diethyl malonate | 0.4 mol, 64 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 9.66 g | [Na] | Na
reactant | pivaloylchloride | 0.4 mol, 53 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | sodium | 9.29 g | [Na] | Na
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | ethyl pivaloylacetate | C(C(C)(C)C)(=O)CC(=O)OCC | C9H16O3
